US07582775B2
B. 6-(1-Ethyl-1-hydroxy-propyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester
To a stirred solution of 6-iodo-benzo[b]thiophene-2-carboxylic acid ethyl ester (2.95 g, 8.88 mmol) in THF (60 mL) at −78° C. is added ethylmagnesium bromide (4.45 mL, 3.0 M). The reaction mixture is stirred for 15 min, and 3-pentanone (3.0 mL) is added. The mixture is allowed to warm to RT and stirred for 30 min. The reaction is quenched with HCl (15 mL, 1.0 M) and extracted with EtOAc (2×50 mL). The organic layer is dried over Na2SO4, concentrated, and purified by silica gel column chromatography to give the title compound (0.65 g, 25%).

reactant | 6-iodo-benzo[b]thiophene-2-carboxylic acid ethyl ester | 8.88 mmol, 2.95 g | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)I | C11H9IO2S
reactant | ethylmagnesium bromide | 3.0 M, 4.45 mL | C(C)[Mg]Br
reactant | 3-pentanone | 3.0 mL | CCC(CC)=O | C5H10O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 6-(1-Ethyl-1-hydroxy-propyl)-benzo[b]thiophene-2-carboxylic acid ethyl ester | 0.65 g, 25% | C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)C(CC)(O)CC | C16H20O3S
